US05650092
A mixture of 50 g of 4-n-pentyl-4-phenyl-4-silacyclohexanecarboxylic acid, 50.0 g of triphenylphosphine and 420 ml of carbon tetrachloride was agitated under reflux for 1 hour. Then, a mixture of 32.0 g of 4-trifluoromethoxyphenol and 100 ml of pyridine was added to the mixture, followed by further addition of 1.00 g of 4-dimethylaminopyridine and agitation at room temperature for 9 hours. The resultant reaction mixture was poured into dilute hydrochloric acid, followed by extraction with ethyl acetate. The ethyl acetate solution was washed with brine, dried and concentrated, followed by purification of the resultant residue with silica gel chromatography to obtain 60.8 g (yield: 78%) of (4-trifluoromethoxyphenyl) 4-n-pentyl-4-phenyl-4-silacyclohexanecarboxylate. The results of IR and NMR analyses are shown below.

reactant | 4-n-pentyl-4-phenyl-4-silacyclohexanecarboxylic acid | 50 g | C(CCCC)[Si]1(CCC(CC1)C(=O)O)C1=CC=CC=C1 | C17H26O2Si
reactant | triphenylphosphine | 50.0 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 4-trifluoromethoxyphenol | 32.0 g | FC(OC1=CC=C(C=C1)O)(F)F | C7H5F3O2
reactant | hydrochloric acid | Cl | ClH
catalyst | 4-dimethylaminopyridine | 1.00 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | pyridine | 100 ml | N1=CC=CC=C1 | C5H5N
solvent | carbon tetrachloride | 420 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | (4-trifluoromethoxyphenyl) 4-n-pentyl-4-phenyl-4-silacyclohexanecarboxylate | 60.8 g, yield: 78% | C(CCCC)[Si]1(CCC(CC1)C(=O)OC1=CC=C(C=C1)OC(F)(F)F)C1=CC=CC=C1 | C24H29F3O3Si
